US08530503B2
2-(3,4-diethoxyphenyl)-4-(pyridin-4-yl)oxazole
In a microwave vial were dissolved 2-bromo-1-(pyridin-4-yl)ethanone hydrobromide (134 mg, 0.478 mmol) and 3,4-diethoxybenzamide (100 mg, 0.478 mmol) in DMF (5 ml) and the reaction was heated at 170° C. for 40 min. The reaction mixture was poured in a saturated solution of NaHCO3 and extracted with EtOAc (50 ml×3). The combined organic phases were washed with a saturated solution of NaCl (2×30 ml) and concentrated under reduced pressure. The product was purified by column chromatography using CH2Cl2:MeOH (95:5) to yield 4 mg (2.7%) of the product. MS (EI) m/z: 311 (M+).

reactant | 2-bromo-1-(pyridin-4-yl)ethanone hydrobromide | 0.478 mmol, 134 mg | Br.BrCC(=O)C1=CC=NC=C1
reactant | 3,4-diethoxybenzamide | 0.478 mmol, 100 mg | C(C)OC=1C=C(C(=O)N)C=CC1OCC | C11H15NO3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 2-(3,4-diethoxyphenyl)-4-(pyridin-4-yl)oxazole | 4 mg, 2.7% | C(C)OC=1C=C(C=CC1OCC)C=1OC=C(N1)C1=CC=NC=C1 | C18H18N2O3
